US07211572B2
To a solution of tert-butyl [9-benzyloxy-2-(3-chloro-4-fluorobenzyl)-1,8-dioxo-1,3,4,8-tetrahydro-2H-pyrido[1,2-a]pyrazin-7-yl]carbamate (179 mg) in dioxane (2 ml) was added 4N hydrochloric acid/dioxane solution (2 ml) and the mixture was stirred at room temperature for 3.5 hr. The solvent was evaporated and aqueous sodium hydrogen carbonate solution was added to the obtained residue. The mixture was extracted with chloroform. The chloroform layer was dried, concentrated and purified by silica gel column chromatography (ethyl acetate:methanol=5:1) to give 7-amino-9-benzyloxy-2-(3-chloro-4-fluorobenzyl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione (88 mg).

reactant | tert-butyl [9-benzyloxy-2-(3-chloro-4-fluorobenzyl)-1,8-dioxo-1,3,4,8-tetrahydro-2H-pyrido[1,2-a]pyrazin-7-yl]carbamate | 179 mg | C(C1=CC=CC=C1)OC=1C(C(=CN2C1C(N(CC2)CC2=CC(=C(C=C2)F)Cl)=O)NC(OC(C)(C)C)=O)=O | C27H27ClFN3O5
reactant | hydrochloric acid dioxane | 4N, 2 ml | Cl.O1CCOCC1
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 7-amino-9-benzyloxy-2-(3-chloro-4-fluorobenzyl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione | 88 mg | NC=1C(C(=C2N(CCN(C2=O)CC2=CC(=C(C=C2)F)Cl)C1)OCC1=CC=CC=C1)=O | C22H19ClFN3O3
